US07179934B2
(3R,4R,5R)-3-Amino-4,5-dimethyl-heptanoic acid hydrochloride
(3R,4R,5R)-3-Acetylamino-4,5-dimethyl-heptanoic acid ethyl ester (13.63 g, 56.0 mmol) was heated under reflux with 200 mL of 1M hydrochloric acid for 72 hours. The solution was cooled and extracted 2× with 50 mL aliquots of MTBE. The aqueous phase was evaporated to a semisolid. Acetonitrile (4×100 mL) was added and evaporated to give 10.75 g (89% yield) of the titled compound as a white crystalline solid: 1H NMR (CD3OD, 399.77 MHz) 0.87 (t, J=7.3 Hz, 3H), 0.94 (t, J=6.6 Hz, 6H), 1.02–1.15 (m, 1H), 1.37–1.53 (m, 2H), 1.58–1.68 (m, 1H), 2.64 (dd, J=17.5, 7.4 Hz, 1H), 2.73 (dd, J+17.5, 4.8 Hz, 1H), 3.54–3.61 (m, 1H). Low resolution mass spec: nominal m/e calc'd for C9H20ClNO2 (M+H)+: 174. Found: m/e 174.

reactant | (3R,4R,5R)-3-Acetylamino-4,5-dimethyl-heptanoic acid ethyl ester | 56.0 mmol, 13.63 g | C(C)OC(C[C@H]([C@@H]([C@@H](CC)C)C)NC(C)=O)=O | C13H25NO3
reactant | hydrochloric acid | 1M, 200 mL | Cl | ClH
product | (3R,4R,5R)-3-Amino-4,5-dimethyl-heptanoic acid hydrochloride | 10.75 g, 89% yield | Cl.N[C@H](CC(=O)O)[C@@H]([C@@H](CC)C)C | InChI=1S/C9H19NO2.ClH/c1-4-6(2)7(3)8(10)5-9(11)12;/h6-8H,4-5,10H2,1-3H3,(H,11,12);1H/t6-,7-,8-;/m1./s1
